US06930120B2
3-(4-Benzyloxy-3-methoxyphenyl)-2-methyl-2-phenoxypropionic acid
A stirred solution of Et3SiH (8.67 mL, 54.3 mmol) in CH2Cl2 (45 mL) was treated with BF3-Et2O (6.8 mL, 54.3 mmol). 3-(4-Benzyloxy-3-methoxyphenyl)-3-hydroxy-2-methyl-2-phenoxypropionic acid (7.39 g, 18.1 mmol) in CH2Cl2 (90.5 mL) was then added dropwise via addition funnel, maintaining temperature below −7° C. After the addition was complete, the reaction was stirred for 1.5 h at −10° C., then quenched with 1 M NaOH (18.1 mL) and diluted with H2O (12 mL). 1N HCl was used to adjust pH to 4, followed by separation of layers. The aqueous layer was extracted with CH2Cl2 (2×15 mL), and combined organic layers were washed first with 1N HCl (15 mL), then H2O (15 mL), followed by drying over Na2SO4 and concentration to a gummy orange solid (6.86 g, 97%): MS (EI) 410.2 (M+NH4)+, 391.3 (M−H)−.

reactant | Et3SiH | 54.3 mmol, 8.67 mL | [SiH](CC)(CC)CC | C6H16Si
reactant | BF3 Et2O | 54.3 mmol, 6.8 mL | B(F)(F)F.CCOCC
reactant | 3-(4-Benzyloxy-3-methoxyphenyl)-3-hydroxy-2-methyl-2-phenoxypropionic acid | 18.1 mmol, 7.39 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(C(C(=O)O)(OC1=CC=CC=C1)C)O)OC | C24H24O6
solvent | CH2Cl2 | 45 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 90.5 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-Benzyloxy-3-methoxyphenyl)-2-methyl-2-phenoxypropionic acid | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CC(C(=O)O)(OC1=CC=CC=C1)C)OC | C24H24O5
